US08664220B2
Step 3: {4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using [4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-acetic acid ethyl ester and 2-bromo-6-phenyl-pyridine.

reactant | [4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N)=O | C20H20N2O3
reactant | 2-bromo-6-phenyl-pyridine | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
product | {4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C1=CC=CC=C1)=O | C31H27N3O3
